US08383644B2
(S)-2-{[(3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-7-(3-methyl-benzoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid
(S)-2-{[(3S,8S)-3-(4-cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride (20 mg) was dissolved in 1:1 EtOAc and saturated aqueous NaHCO3 and 3-methylbenzoyl chloride (3 eq) added. After stirring at room temperature 1 hour, the layers were separated and the organic layer was dried over Na2SO4 and evaporated. The residue was purified by over silica (hexanes to 8:2 hexanes-EtOAc to 6:4 hexanes-EtOAc to 6:4 hexanes-EtOAc+2% MeOH to DCM+3% MeOH). The resulting compound was hydrolyzed according to General Procedure B to give the title compound (15 mg). LCMS (m/z): 795.

reactant | (S)-2-{[(3S,8S)-3-(4-cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride | 20 mg | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3CCCCC3)=O
reactant | 3-methylbenzoyl chloride | 3 eq | CC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (S)-2-{[(3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-7-(3-methyl-benzoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid | 15 mg | C1(CCCCC1)COC1=CC=C(C=C1)[C@@H]1OC=2C(=CC=3C[C@H](N(CC3C2)C(C2=CC(=CC=C2)C)=O)C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C2=C(C(=NC=C2)C)C)OC1 | C49H51N3O7
